Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"I can't keep this up."
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Per ED assessment by Dr. ___ dated ___: 
___ man with h/o depression and prior SA and hospitalization 
in ___, BIB roommate for ___. Psychiatry consulted for 
safety assessment. Patient seen alone (mother and brother 
___ visiting but stepped out for interview).  Patient 
reports that he has a h/o depression and has wondered if he has 
bipolar disorder given mood lability and periods of intense 
anger.

Last ___, he had a period of several months of depression, 
with poor sleep, poor appetite (lost weight), isolating, 
intermittent suicidal thoughts without a plan, but still able to 
work and function.  He had broken up with a girlfriend recently 
but was still in contact with her and this was causing him 
stress.  One day he impulsively attempted suicide: notes that he 
is not sure what set him off that day; says that he was doing 
___ work outside on a hot day, his ex and friends were 
___ him, and he decided "I'm just going to do it."  He had a 
bottle of baclofen left over from a back injury and took the 
bottle.  His friends called his parents and he was hospitalized 
at ___; says he was there for 1 day and then did a 
2-week day program.  He was started on clonidine and Zoloft; 
took them for a month or so but stopped because they weren't 
helpful. Said that the day program and therapy were helpful.  He 
had been seeing a therapist at ___ but stopped when he 
moved from ___ to ___ in the ___.

He reports that things started to get bad again in ___.  He 
was feeling depressed again, sleep was ok, was eating more than 
usual, but feeling increasingly depressed and suicidal.  Said 
that he decided to stop drinking entirely (was having ___ beers 
on the weekends) and stop smoking cannabis (was smoking 1x week) 
and started to feel better.  Said that he had been trying to 
find a therapist but it's been hard to find someone who takes 
his insurance and doesn't interfere with work (works at 
___, takes college courses online).

Recently, he has been stressed because of money; is a month 
behind on rent and has been working 50-60 hours/week.  Today he 
was supposed to drive his roommate, ___, to a dental surgery. 
 He was also selling his car.  He couldn't find his original 
___ of sale and basically "lost it and destroyed my room 
looking for it."  He said that he was upset and ___ asked if 
he needed to go to the hospital; at this point he mentioned that 
for the past month he has been telling ___ "I need to go to 
the hospital" and he notes that "things got physical" today when 
they were arguing.  He says that ___ drove him to the 
hospital, called his family, and then went to her dental 
appointment.

When I ask about symptoms of irritability, he says that he has 
been having problems with anger and getting set off by little 
things.  He and ___ have been arguing and he sometimes 
isolates himself, sometimes pushes her away.  He says that he 
has always had some low level symptoms of social 
anxiety/paranoia; worries that people are talking about him or 
"conspiring" against him, even though rationally he knows this 
isn't true.

He denies frank sx of mania or psychosis; denies h/o lack of 
need for sleep, denies h/o hallucinations, denies h/o 
nightmares/flashbacks.

Spoke to patient's mother and brother ___.  They note that 
he has always been shy/anxious, and was very close to ___ 
growing up, otherwise few friends.  He is a "yes man" and 
doesn't really tell them when things are wrong; tends to confide 
in his roommate ___ more.  ___ received several frantic 
texts from ___ this morning, saying that he had assaulted 
her, said awful things to her, and handed her a knife (with the 
implication that it was to hurt him."  Mother notes that she has 
some concerns about his friendship with ___ and its impact on 
his mental health.

Spoke to patient's roommate ___ (___).  She has 
known patient since ___ and lived with him for several 
months. She is aware of his psychiatric history.  She says that 
"he has been emotionally and physically abusive towards me in 
the past few weeks."  She notes that there are periods of 
"really good ___ and "really bad ___ and these can 
alternate within a given day.  For the past few weeks, he has 
been depressed and frequently making suicidal statements, for 
example, they will be driving and he will get upset about 
something and repeatedly say "I'm going to walk into traffic; I 
want to kill myself."  She notes that she and her roommate have 
been careful to remove all weapons from the apartment, and that 
they have an apartment policy about not locking their bedroom 
doors because they are worried about ___ safety.  Said that 
he has been more argumentative lately, frequently feeling like 
she is trying to hurt or manipulate him; she says that their 
fights have become physical, where he will push/shove/hit her, 
pin her down to the bed, screaming in her face and calling her 
names--she says that this usually happens when she tries to talk 
to him when he wants to isolate.  He has been stressed about 
being behind on rent payments.  She notes that last night she 
asked him to sleep in her room because she was anxious about 
getting dental surgery today.  This morning he woke up to a 
missed call, then started getting upset and aggressive with her; 
he locked himself in his room.  She says that she was knocking 
on the door and talking to him, concerned about his prior 
suicidality.  He then began to yell at her, calling her names 
and saying mean things about other people she knows--she 
followed him to the bathroom to calm him down, and he then 
pushed her against the bathroom door, tried to choke her, and 
punched the door twice.  He said over and over that she needed 
to kill him, that he needs to kill himself.  She wanted to bring 
him to the hospital, but he did not want to go. She said that 
she would help him kill himself but he needed to come to the car 
with her; she says that he gave her a long hunting knife to help 
her kill him and he hid the knife.  When they got to the car, 
she contacted his brother and drove him to the emergency room.  
She says that she is worried for his safety if he is not in the 
hospital--says that they have tried to help him see a therapist 
but he has not followed through.

I spoke to their other roommate ___ ___ ___ 
was in the room with her while we spoke); she says that the past 
few weeks had been "a roller coaster" in terms of his emotions, 
although he had been behaviorally in control until today (she 
was not present this morning, but hear about it from ___.  
Says that he has been having financial problems, and his 
depression has been kicking in, and small triggers are making 
him pick fights.  Says that he hasn't found a healthy outlet to 
release his emotions.  Notes that things were worse ___ months 
ago; he was angrier and got into a physical altercation with 
___ and ___ "I'm going to kill myself."  Things had been 
calmer since then, although he frequently "jokes" about wanting 
to kill himself and then retracts it ("just kill me; 
nevermind.").  He has been isolating himself more but she didn't 
realize things were so bad until today."
 
Past Medical History:
PAST PSYCHIATRIC HISTORY: 
- Prior diagnoses:
  - depression
- Hospitalizations:
  - one psychiatric hospitalization at ___ in ___ 
___ after suicide attempt
- Partial hospitalizations: none
- Psychiatrist: none
- Therapist: none
- Medication trials:
  - Zoloft + clonidine (reportedly ineffective);
  - Prozac (stopped because of feeling emotionally numbed and 
having sexual side effects)
- ___ trials: none
- Suicide attempts: one suicide attempt by overdosing on 
baclofen in the ___
- Self-injurious behavior: denies
- Harm to others:
  - patient's family reports that he does not have Hx of 
violence; 
  - patient reports occasionally "pushing" roommate ___
  - ___ reports patient has pushed/choked/held her down and 
is physically and emotionally abusive
- Trauma: denies
- Access to weapons: denies

PAST MEDICAL HISTORY: 
- cystic kidney s/p removal;
- h/o pinched nerve in back;
- s/p knee surgery;
- ?OSA
**PCP: none
___ history of head trauma, seizure.

MEDICATIONS: 
Per patient: 
- he was prescribed something for blood pressure (amlodipine? 
patient recognized this name from multiple choice) but stopped 
taking it because it made him tired and dizzy, which was not 
good for his work;
- after his ___, patient was prescribed Prozac 
for anxiety and another medication he couldn't recall, which he 
stopped taking because they made him feel emotionally blunted 
and caused sexual side effects.
___: no records

ALLERGIES: NKDA
 
Social History:
SUBSTANCE USE HISTORY: 
- Tobacco: never smoker
- Alcohol: 
  - previously binging ___ beers on weekends, now sober for ___ 
months;
  - denies history of alcohol withdrawal, DTs, seizures
- Marijuana:  - Hx of smoking 1x week, now sober for ___ months
- Heroin: denies
- Opiates: denies
- Benzos: denies
- Cocaine: denies
- Amphetamines/speed: denies
- LSD/PCP: denies
- MAT: denies
- Other Drugs: denies

FORENSIC HISTORY: ___
SOCIAL HISTORY:
___
Family History:
FAMILY PSYCHIATRIC HISTORY:
Older brother attempted suicide at age ___, otherwise denies
 
Physical Exam:
VITAL SIGNS:
T 98.2   HR 103   BP 132/64   RR 20   SpO2 97% RA 

EXAM: 
General: 
- HEENT: Normocephalic, atraumatic.  Moist mucous membranes, 
oropharynx clear, supple neck.  No scleral icterus.
- Cardiovascular: Regular rate and rhythm, S1/S2 heard, no 
murmurs/rubs/gallops. Distal pulses ___ throughout.
- Pulmonary: No increased work of breathing.  Lungs clear to 
auscultation bilaterally.  No wheezes/rhonchi/rales.
- Abdominal: Non-distended, bowel sounds normoactive.  No 
tenderness to palpation in all quadrants.  No guarding, no 
rebound tenderness.
- Extremities: Warm and well-perfused.  No edema of the limbs.
- Skin: No rashes or lesions noted.

Neurological: 
- Cranial Nerves:
--- I: Olfaction not tested.
--- II: PERRL 3 to 2mm bilaterally. 
--- III, IV, VI: EOMI without nystagmus
--- V: Facial sensation intact to light touch in all 
distributions bilaterally
--- VII: No facial droop, facial musculature symmetric and ___ 
strength in upper and lower distributions bilaterally
--- VIII: Hearing intact to finger rub bilaterally
--- IX, X: Palate elevates symmetrically
--- XI: ___ strength in trapezii and SCM bilaterally
--- XII: Tongue protrudes in midline
- Motor: Normal bulk and tone bilaterally. No abnormal 
movements, no tremor. Strength ___ throughout.
- Sensory: No deficits to fine touch throughout
- DTRs: 2 and symmetrical throughout
- Coordination: Normal on finger to nose test, no intention 
tremor noted
- Gait: Good initiation.  Narrow-based, normal stride and arm 
swing.

Cognition: 
- Wakefulness/alertness: awake and alert
- Attention: MOYb with 0 errors, 6 digits forward
- Orientation: oriented to person, time, place, situation
- Memory: ___ registration, ___ recall after 5 ___ 
grossly intact
- Fund of knowledge: Consistent with education; intact to last 3 
presidents
- Language: Native ___ speaker, fluent, no paraphasic 
errors, appropriate to conversation

Mental Status: 
- Appearance: bearded young man appearing stated age or older
(because of his facial hair), fair grooming and hygiene, wearing
hospital gown, in no apparent distress; notable large tattoos on
his left arm: a skull tattoo on his shoulder (the first one that
he regrets), images of an alligator and a panther with their
mouth open in a roar and phrases "take no prisoners" and "you 
got
some attitude"; tattoo of the phrase "fire walk with me" from
"Twin Peaks"
- Behavior: sitting comfortably in his chair, good eye contact, 
minimal psychomotor retardation
- Attitude: calm, cooperative, engaged
- Mood: "alright"
- Affect: mood-congruent, euthymic, full range
- Speech: normal rate, volume, and tone
- Thought process: linear, goal-oriented, no evidence of thought 
disorder
- Thought Content:
--- Safety: denies HI, denies current SI
--- Delusions: denies paranoia but unclear if his thoughts of 
his friends scheming against him and talking negatively behind 
his back are reality based 
--- Obsessions/Compulsions: no evidence based on current 
encounter
--- Hallucinations: denies AVH, not appearing to be attending to 
internal stimuli
- Insight: limited
- Judgment: limited

DISCHARGE MENTAL STATUS EXAM:

Mental Status Exam:
Appearance: well-groomed, age-appearing man, bearded, sitting up 
in chair in NAD
Behavior: calm, cooperative with interview
Eye contact: makes intermittent eye contact
Psychomotor: no abnormal involuntary movements, psychomotor 
retardation, or agitation
Speech: normal rate/rhythm, tone, volume, and prosody
Mood/affect: "pretty good" affect euthymic, less constricted, 
reactive
Thought Process/content: linear, goal directed, denies SI/HI, 
denies AH/VH/delusions
Oriented: to self, place, situation
Memory: grossly intact to recent events on interview
insight: fair
Judgment: fair
 
Pertinent Results:
___ 01:18PM BLOOD WBC-7.1 RBC-5.73 Hgb-16.0 Hct-49.2 MCV-86 
MCH-27.9 MCHC-32.5 RDW-12.1 RDWSD-37.9 Plt ___

___ 01:18PM BLOOD Glucose-88 UreaN-14 Creat-1.0 Na-142 
K-4.5 Cl-104 HCO3-26 AnGap-12

___ 01:18PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG

___ 04:03PM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG oxycodn-NEG mthdone-NEG
 
Brief Hospital Course:
1. LEGAL & SAFETY:  
On admission, the patient signed a conditional voluntary 
agreement (Section 10 & 11) and remained on that status 
throughout their admission. He was also placed on 15 minute 
checks status on admission and remained on that level of 
observation throughout while being unit restricted.
.
2. PSYCHIATRIC:
Patient is a ___ with history of MDD and one prior suicide 
attempt by overdose on Baclofen who was brought to the emergency 
room by a roommate after he expressed suicidal ideation. History 
is significant for multiple depressive symptoms, including low 
mood, anhedonia, thoughts of suicide, and difficulty 
concentrating, worsening over the past several weeks in the 
setting of financial and social stressors. Patient also reported 
frequent outbursts of anger, which are uncharacteristic of him, 
and have been escalating over the past several weeks. 
Presentation was most consistent with major depressive disorder. 
There is also a history of trauma during childhood, and this 
coupled with patient's anger outbursts and maladaptive 
relationships raises concern for post-traumatic stress as well. 
There is no history of mania or hypomanic symptoms on detailed 
interview.
.
Patient was engaged with treatment. He expressed subjective 
improvement in mood and irritability shortly after admission. On 
___, citalopram 10mg PO daily and oxcarbazepine 150mg PO BID 
were started for treatment of depression and anger outbursts, 
respectively. Patient reported transient nausea and headache 
after first dose of these medications, but this improved 
spontaneously. Citalopram was increased to 20mg PO daily on ___ 
and patient tolerated this dose with no adverse effects. Patient 
denied suicidal ideation throughout admission, and did not have 
any anger outbursts or severe episodes of anxiety during his 
hospital stay. He reported that he felt better equipped to 
tolerate distress. On day of discharge he exhibited mood 
congruent euthymic affect, linear thought process, and thought 
content devoid of suicidal ideation or thoughts/urges to engage 
in self-harm. 
.
3. SUBSTANCE USE DISORDERS:
Patient has history of alcohol and cannabis use, but had been 
abstinent from these substances for >1 month prior to 
presentation. Provided counseling to encourage ongoing sobriety 
in the setting of patient's mental illness.
.
4. MEDICAL
Patient was medically cleared in the emergency room for 
inpatient psychiatric admission. During hospital stay, he 
exhibited hypertension to the 140s systolic. This was discussed 
with the medicine consult service, as patient is also s/p 
unilateral nephrectomy as an infant. On ___, labetalol 100mg PO 
BID was started, with recommendation that patient follow-up with 
his PCP after discharge for more thorough work-up and ongoing 
management. Patient did not exhibit any signs or symptoms of 
hypertensive urgency during hospitalization.
 .
5. PSYCHOSOCIAL
#) GROUPS/MILIEU:  
The patient was encouraged to participate in the various groups 
and milieu therapy opportunities offered by the unit, and he 
often attended these activities. He related appropriately with 
staff and other patients on the unit.
.
#) COLLATERAL INFORMATION AND FAMILY INVOLVEMENT
Family meeting was held on ___ with patient's mother and 
father. Patient received strong support from his parents and 
brothers, ___ and ___, during his hospital admission. 
His family members are essential partners in his care.
.
#) INTERVENTIONS
- Medications: Citalopram, oxcarbazepine.
- Psychotherapeutic Interventions: Individual, group, and milieu 
therapy.
. 
RISK ASSESSMENT & PROGNOSIS
On presentation, the patient was evaluated and felt to be at an 
increased risk of harm to himself and others based upon his 
report of multiple depressive symptoms, suicidal ideation, and 
physical aggression towards others. His static factors noted at 
that time include male gender, single status, history of a 
suicide attempt, history of harm towards others, and history of 
trauma. The modifiable risk factors were also addressed at that 
time and included suicidal ideation, economic distress, 
hopelessness, and lack of outpatient mental health care. These 
were intervened upon with pharmacotherapy, individual therapy, 
group work, and motivational counseling. Finally, the patient is 
being discharged with many protective risk factors, including 
future-oriented thinking, strong engagement with treatment, 
medication adherence, strong family support, no suicidal or 
homicidal ideation, sense of purpose, and help-seeking behavior. 
Overall, the patient is not at an acutely elevated risk of 
self-harm nor is he a danger to others due to acutely 
decompensated psychiatric illness. 
 
Medications on Admission:
None.
 
Discharge Medications:
1.  Citalopram 20 mg PO DAILY 
RX *citalopram 20 mg 1 tablet by mouth every evening Disp #*15 
Tablet Refills:*0 
2.  Labetalol 100 mg PO BID 
RX *labetalol 100 mg 1 tablet by mouth in the morning and 1 
tablet by mouth in the evening Disp #*30 Tablet Refills:*0 
3.  OXcarbazepine 150 mg PO BID 
RX *oxcarbazepine 150 mg 1 tablet by mouth in the morning and 1 
tablet by mouth in the evening Disp #*30 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Major Depressive Disorder, recurrent, severe

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___